### ISSUE TITLE
simp argument `(.∈.)` not recognized as `Membership.mem` anymore

### ISSUE THREAD

**Issue by BrunoDutertre** [leanprover/lean4#5905]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

On this example, the  tactic `simp [(.∈.)] at h₁`  fails. this used to work in Lean 4.11.0 (modulo a change to the Membership type class).
```lean
variable {α: Type}

instance : Membership α (α → Prop) where
  mem := fun p x => p x

inductive Set (α: Type) where
  | singleton: (x: α) → Set α

def interpret (s: Set α): α → Prop :=
  match s with
  | .singleton x => fun y => y = x

theorem test {x y: α} (h: x ∈ interpret (Set.singleton y)): x = y:= by
  simp [(.∈.)] at h
```
It produces this error:
```lean
invalid 'simp', proposition expected
  (x_0 : Sort _abstMVar.0) →
    (x_1 : x_0 → Sort _abstMVar.1) → ((x1 : x_0) → x_1 x1 → Membership x_0 (x_1 x1)) → (x1 : x_0) → x_1 x1 → Prop
```

### Steps to Reproduce

Run lean on the example.

**Expected behavior:**

Expand the `∈` in the hypothesis `h` with its definition (or produce a meaningful error message). 

**Actual behavior:** [Clear and concise description of what actually happens]

### Versions

4.12.0

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
I'm surprised this used to work, with this rather complicated term in the simp arguments.

A workaround is to avoid notation:
```
  simp [Membership.mem] at h
```

**Comment by Kha** [comment]
Regression from #5020: `simp` has special support for these cdot expansions, but the argument swap is outside the supported fragment
